US09029399B2
Preparation of title compound 1-(4-cyclopropylpyridin-3-yl)-3-(6-fluorobenzo[b]thiophen-5-yl)imidazolidin-2-one (28A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 90 g, 0.443 mmol) was reacted with 5-bromo-6-fluorobenzo[b]thiophene (I-28d: 102 mg, 0.443 mmol), 1,4-dioxane (4 mL), copper iodide (9 mg, 0.044 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (19 mg, 0.132 mmol) and potassium phosphate (282 mg, 1.329 mmol) to afford the crude product. Purification by preparative HPLC afforded 9 mg of the product (6% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.443 mmol, 90 g | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 5-bromo-6-fluorobenzo[b]thiophene | 0.443 mmol, 102 mg | BrC1=CC2=C(SC=C2)C=C1F | C8H4BrFS
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.132 mmol, 19 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 1.329 mmol, 282 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.044 mmol, 9 mg | [Cu](I)I
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropylpyridin-3-yl)-3-(6-fluorobenzo[b]thiophen-5-yl)imidazolidin-2-one | 9 mg, 6% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=CC2=C(SC=C2)C=C1F)=O | C19H16FN3OS
